US05840732
ii) Synthesis of 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione dihydrochloride
To a methanol solution of 0.49 g (1.2 mmol) of 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione, 0.5 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring, after which the solvent was distilled off, to yield 0.44 g (74.2%, white oily substance) of the desired product.

reactant | 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 1.2 mmol, 0.49 g | N1=CC(=CC=C1)CCC=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C22H22N4O3S
reactant | hydrochloric acid ethyl acetate | 4N, 0.5 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione dihydrochloride | Cl.Cl.N1=CC(=CC=C1)CCC=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C22H22N4O3S.2ClH/c27-21-19(9-3-6-17-7-4-10-23-16-17)30-22(28)26(21)13-1-2-15-29-18-8-5-12-25-14-11-24-20(18)25;;/h4-5,7-12,14,16H,1-3,6,13,15H2;2*1H
